US09260397B2
1-(4-bromophenyl)-3-hexyl imidazolium bromide
According to the general synthesis procedure, 10.4 mmol (2.32 g) 1-(4-bromophenyl)imidazole and 11.44 mmol (1,889 g, 2.17 ml) 1-bromohexane are dissolved in 5 ml THF and heated for 23 h to 80° C.

reactant | 1-(4-bromophenyl)imidazole | 10.4 mmol, 2.32 g | BrC1=CC=C(C=C1)N1C=NC=C1 | C9H7BrN2
reactant | 1-bromohexane | 11.44 mmol, 2.17 ml, 1,889 g | BrCCCCCC | C6H13Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-3-hexyl imidazolium bromide | [Br-].BrC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCC | InChI=1S/C15H20BrN2.BrH/c1-2-3-4-5-10-17-11-12-18(13-17)15-8-6-14(16)7-9-15;/h6-9,11-13H,2-5,10H2,1H3;1H/q+1;/p-1
